US04894386
Isobutyric acid (1.2 g, redistilled) was slowly added dropwise to a stirred solution of lithium di-isopropylamide [prepared from di-isopropylamine (2.74 g) and n-butyl lithium (13.6 ml of a 2M solution in hexane)] in dry tetrahydrofuran (50 ml) at 0° under an atmosphere of nitrogen. The mixture was stirred at 0° for 40 min, heated to 45° for 2 hr, and allowed to cool to room temperature. This solution was then added dropwise to a stirred solution of methyl 4-(5-formyl-1-propylindol-3-ylmethyl)-3-methoxybenzoate (3.0 g, prepared as described in Example 61, part a) in dry retrahydrofuran (25 ml) under an atmosphere of nitrogen. After 1 hr, the mixture was poured into 20% (w/v) aqueous citric acid solution (150 ml) and extracted with ethyl acetate. The combined extracts were washed (water (twice), brine), dried (MgSO4), and evaporated to give a dark oil. The product was purified by flash chromatography, eluting with 80:20:2 toluene ethyl acetate:acetic acid, to give methyl 4-[5-(2-carboxy-1-hydroxy-2-methylpropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (1.47 g, 40%) as a yellow foam: partial NMR (250 MHz, DMSO-d6): 0.81(m, 6H, CH2CH3, C(CH3)), 0.97(s, 3H, C(CH3)), 1.71(m, 2H, CH2CH3), 3.82(s, 3H, OCH3), 3.91(s, 3H, OCH3), 4.05(m, 4H, NCH2, ArCH2Ar'), 4.85(m, 1H, CH(OH), 5.29(d, 1H, CH(OH), 12.02(br s, 1H, COOH).

reactant | Isobutyric acid | 1.2 g | C(C(C)C)(=O)O | C4H8O2
reactant | lithium di-isopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | di-isopropylamine | 2.74 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl 4-(5-formyl-1-propylindol-3-ylmethyl)-3-methoxybenzoate | C(=O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C22H23NO4
reactant | citric acid | 150 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 4-[5-(2-carboxy-1-hydroxy-2-methylpropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 1.47 g, 40% | C(=O)(O)C(C(O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC)(C)C | C26H31NO6
